US05565461
2-(2-Aminopurin-9-yl)methyl butan-1,4-diol
To a solution of crude dimethyl (2-aminopurin-9-ylmethyl)succinate (3.2 g, 10.9 mmol), dissolved in tert. butanol (250 ml) at 40° C., was added lithium borohydride (1.3 g, 60 mmol) in portions with stirring. After 1 hour at ambient temperature, water (30 ml) was added slowly and stirring continued over night. Inorganic salts were filtered and the solution evaporated to dryness. Yield of crude product was 1.6 g (50%). Chromatography on silica (chloroform+methanol 7+1) afforded pure product.

reactant | dimethyl (2-aminopurin-9-ylmethyl)succinate | 10.9 mmol, 3.2 g | NC1=NC=C2N=CN(C2=N1)CC(C(=O)OC)CC(=O)OC | C12H15N5O4
reactant | lithium borohydride | 60 mmol, 1.3 g | [BH4-].[Li+]
reactant | water | 30 ml | O | H2O
solvent | tert. butanol | 250 ml | C(C)(C)(C)O | C4H10O
product | 2-(2-Aminopurin-9-yl)methyl butan-1,4-diol | NC1=NC=C2N=CN(C2=N1)CC(CO)CCO | C10H15N5O2
